US09388138B2
2-(Quinolin-2-ylethynyl)phenol
Potassium carbonate (0.48 g, 3.48 mmol, 2.0 eq.) was added to a stirred solution of 2-(quinolin-2-ylethynyl)phenyl acetate (0.50 g, 1.74 mmol, 1.0 eq.) in a 1:1 mixture of methanol-water (10 mL). The resulting mixture was stirred at r.t. for 3 h. The reaction was poured onto water (50 mL) and the pH was adjusted to 7.0 by careful addition of aqueous hydrochloric acid (10%). The mixture was extracted with ethyl acetate (3×25 mL). The combined organic extracts were washed with brine (25 mL), dried over sodium sulfate and were concentrated under reduced pressure yielding the product (0.42 g, 95%) as a pale yellow solid; 1H NMR (500 MHz, DMSO-d6) δ 6.87 (t, J=7.5 Hz, 1H, Ar), 6.97 (d, J=8.0 Hz, 1H, Ar), 7.30 (t, J=8.0 Hz, 1H, Ar), 7.50 (d, J=7.5 Hz, 1H, Ar), 7.63 (t, J=7.5 Hz, 1H, Ar), 7.69 (d, J=8.5 Hz, 1H, Ar), 7.81 (t, J=7.0 Hz, 1H, Ar), 8.00 (d, J=7.0 Hz, 1H, Ar), 8.01 (d, J=7.0 Hz, 1H, Ar), 8.40 (d, J=8.5 Hz, 1H, Ar), 10.23 (s, 1H, OH).

reactant | Potassium carbonate | 3.48 mmol, 0.48 g, 2.0 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(quinolin-2-ylethynyl)phenyl acetate | 1.74 mmol, 0.50 g, 1.0 eq. | C(C)(=O)OC1=C(C=CC=C1)C#CC1=NC2=CC=CC=C2C=C1 | C19H13NO2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol water | 10 mL | CO.O
product | 2-(Quinolin-2-ylethynyl)phenol | 0.42 g, 95% | N1=C(C=CC2=CC=CC=C12)C#CC1=C(C=CC=C1)O | C17H11NO
